US06300331B1
Synthesis of 9-[2-[2-aminoethyl(triphenylmethyl)amino]ethyl]-9H-pyrido[3,4-b]indole
To a solution of 506 mg (3.01 mmol) of norharman in N,N-dimethylformamide (15 ml) was added 132 mg (3.3 mmol) of sodium hydride in small portions under ice cooling, followed by stirring at room temperature for 30 minutes. To the reaction mixture was added 3.84 g (10 mmol) of bis(2-chloroethyl)(triphenylmethyl)amine and the mixture was reacted at 110° C. for 3 hours. Then, 650 mg (10 mmol) of sodium azide was added, followed by reaction at 100° C. for 2 hours. After cooling to room temperature, the resulting suspension was diluted with toluene and then washed with water and saturated saline. The toluene layer was dried over sodium sulfate and then concentrated under reduced pressure. The residue was added with tetrahydrofuran (3 ml) and water (1 ml) to dissolve the former in the latter. To the resulting solution was added 787 mg (3.0 mmol) of triphenylphosphine and the mixture was reacted at 50° C. for 2 hours. Generation of a gas was observed for a while after the initiation of the reaction and it lasted for about 1.5 hours. After completion of the reaction, the reaction mixture was concentrated, followed by purification through chromatography on a silica gel column (mobile phase; chloroform:methanol:aqueous ammonia=90:9.7:0.3 (v/v)), whereby 306 mg (20.5%) of the title compound was obtained. The physical properties of the resulting compound are as follows:

reactant | norharman | 3.01 mmol, 506 mg | C=1C=CC2=C(C1)C=3C=CN=CC3N2 | C11H8N2
reactant | sodium hydride | 3.3 mmol, 132 mg | [H-].[Na+]
reactant | bis(2-chloroethyl)(triphenylmethyl)amine | 10 mmol, 3.84 g | ClCCN(C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCl | C23H23Cl2N
reactant | sodium azide | 10 mmol, 650 mg | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 3.0 mmol, 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9-[2-[2-aminoethyl(triphenylmethyl)amino]ethyl]-9H-pyrido[3,4-b]indole | 306 mg, 20.5% | NCCN(CCN1C2=C(C3=CC=CC=C13)C=CN=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H32N4
